US04039543
A mixture of 18 g. of methyl 3,5-diamino-4-methylbenzoate, 0.7 g. of p-toluenesulfonic acid, 8.2 g. of sodium acetate, 32 g. of diethoxytetrahydrofuran, 10 ml of glacial acetic acid, 100 ml. of ethanol and 100 ml. of water was boiled at reflux for 3 hours. The alcohol was removed in vacuo and the residue extracted with ethyl acetate. The ethyl acetate solution was washed with water, dried over sodium sulfate and evaporated. By purification of the residue over aluminum oxide with ethyl acetate and recrystallization from high-boiling petroleum ether, there was obtained methyl 3-amino-4-methyl-5-(pyrrol-1-yl)benzoate, having a melting point of 112° C.

reactant | methyl 3,5-diamino-4-methylbenzoate | NC=1C=C(C(=O)OC)C=C(C1C)N | C9H12N2O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | diethoxytetrahydrofuran | C(C)OC1(OCCC1)OCC | C8H16O3
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | methyl 3-amino-4-methyl-5-(pyrrol-1-yl)benzoate | NC=1C=C(C(=O)OC)C=C(C1C)N1C=CC=C1 | C13H14N2O2
